US04415572
8-Acetylaminocarbostyril (21.5 g, 0.106 mol) was suspended in 190 ml of 20% hydrochloric acid and the suspension was stirred while heating under reflux for 1 hour. The reaction mixture was poured into ice water and neutralized with 5 N sodium hydroxide. Crystals which formed were collected by filtration to give 15.47 g of 8-aminocarbostyril.

reactant | 8-Acetylaminocarbostyril | 0.106 mol, 21.5 g | C(C)(=O)NC=1C=CC=C2C=CC(NC12)=O | C11H10N2O2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | hydrochloric acid | 190 ml | Cl | ClH
product | 8-aminocarbostyril | 15.47 g | NC=1C=CC=C2C=CC(NC12)=O | C9H8N2O
